US07566712B2
To a cooled solution of 2,4,4-trimethyl-1,2,3,4-tetrahydro-isoquinolin-7-ylamine (prepared essentially as described in PCT International Application Publication Numbers WO 00/009,486, WO 00/007,993 or WO 98/41507; 330 mg, 1.734 mmol) in 75% aqueous H2SO4, add NaNO2 (132 mg, 1.91 mmol) in 1 ml of water, dropwise. Stir the solution at 0° C. for 30 minutes. Add CuBr (298 mg, 2.08 mmol) and 48% HBr (2 ml). Stir the mixture at 0° C. for 15 minutes. Heat the mixture at 60° C. for 30 minutes. Cool to room temperature, adjust the pH to 9-10, and extract with EtOAc. Wash with brine, dry the solution (Na2SO4), and concentrate under reduced pressure. Purify the residue by flash column chromatography eluting with EtOAc:Hexanes-(1:1) to afford 7-bromo-2,4,4-trimethyl-1,2,3,4-tetrahydro-isoquinoline.

reactant | 2,4,4-trimethyl-1,2,3,4-tetrahydro-isoquinolin-7-ylamine | CN1CC2=CC(=CC=C2C(C1)(C)C)N | C12H18N2
reactant | NaNO2 | 1.91 mmol, 132 mg | N(=O)[O-].[Na+]
reactant | HBr | 2 ml | Br | BrH
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | water | 1 ml | O | H2O
product | 7-bromo-2,4,4-trimethyl-1,2,3,4-tetrahydro-isoquinoline | BrC1=CC=C2C(CN(CC2=C1)C)(C)C | C12H16BrN
